data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(Br)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Br)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Br)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(Br)CN(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(Br)CN(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(Br)CN3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(Br)ccc(Cl)c1Cl.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1[c]([Pd][Br])ccc(Cl)c1Cl"}, {"reactants": "CN(C(=O)C1=CCCC1)c1[c]([Pd][Br])ccc(Cl)c1Cl", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c1ccc(Cl)c2Cl"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c1ccc(Cl)c2Cl", "products": "CN1C(=O)C2(C=CCC2)c2c1ccc(Cl)c2Cl.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c(C)c1.[H+]", "products": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(C)c1"}, {"reactants": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(C)c1", "products": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(C)c1.O"}, {"reactants": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(C)c1", "products": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(C)c1"}, {"reactants": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(C)c1", "products": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c(C)c1"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c(C)c1.O", "products": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c(C)c1"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c(C)c1", "products": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(C)c1"}, {"reactants": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(C)c1", "products": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(C)c1"}, {"reactants": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(C)c1", "products": "COc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)c(C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(Cl)c1OC.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1OC"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1OC", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1OC.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Cl)c2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Cl)c2OC)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(Cl)c1OC"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(Cl)c1OC", "products": "COc1cc2c(c(Cl)c1OC)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(Cl)c1OC)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(Cl)c1OC)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(Cl)c1OC)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(Cl)c1OC)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(Cl)c1OC)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(Cl)c1OC.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1.C=O", "products": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1"}, {"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1", "products": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1"}, {"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1", "products": "C=[N+](O)[C@@H]1C[C@H](CC)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C[C@H](CC)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C[C@H](CC)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C[C@H](CC)C[C@H]2CC=CC[C@H]21", "products": "CC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1"}]}
